US07399759B2
2-(Hexylamino)isonicotinonitrile
2-Chloro-4-cyanopyridine (0.40 g, 2.9 mmol) was dissolved in N-methylpyrrolidone (2.0 ml), and hexylamine (1.15 ml, 8.7 mmol) was added thereto. The reaction mixture was stirred at 100° C. for 4 hrs, combined with water, extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to a silica gel (50 g) column chromatography, eluted with hexane-ethyl acetate (3:1, v/v) to give the titled compound (0.26 g, 46%).

reactant | 2-Chloro-4-cyanopyridine | 2.9 mmol, 0.40 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | hexylamine | 8.7 mmol, 1.15 ml | C(CCCCC)N | C6H15N
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 2.0 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(Hexylamino)isonicotinonitrile | 0.26 g, 46% | C(CCCCC)NC=1C=C(C#N)C=CN1 | C12H17N3
